US06500863B1
a) N-isopropyl-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.5 g, 5.17 mmol), isopropylamine (0.44 m, 5.17 mmol) and triethylamine (1.08 mL, 7.76 mmol) were reacted to form the desired product (1.3 g, 81 %). EI-MS m/z 312 (M-H)−.

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.17 mmol, 1.5 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | isopropylamine | 5.17 mmol | C(C)(C)N | C3H9N
reactant | triethylamine | 7.76 mmol, 1.08 mL | C(C)N(CC)CC | C6H15N
product | N-isopropyl-2,6-dichloro-3-nitrobenzenesulfonamide | 1.3 g, 81 % | C(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C9H10Cl2N2O4S
